US05243049
A mixture of 2(1H)-Oxo-quinoline-3,4-dicarboxylic acid (2.0 g), phosphorous oxychloride (10 mL) and 8 drops of dimethyl formamide was refluxed with stirring for 20 min. The reaction mixture was concentrated in vacuo and the residue treated with ice water to afford 4-Chloro-furo[3,4-c]quinoline-1,3-dione as a tan solid.

reactant | 2(1H)-Oxo-quinoline-3,4-dicarboxylic acid | 2.0 g | C1=CC=C2C(=C1)C(=C(C(=O)N2)C(=O)O)C(=O)O | C11H7NO5
reactant | phosphorous oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | dimethyl formamide | 8 drops | CN(C=O)C | C3H7NO
product | 4-Chloro-furo[3,4-c]quinoline-1,3-dione | ClC1=NC=2C=CC=CC2C2=C1C(OC2=O)=O | C11H4ClNO3
